US06566372B1
Scheme I describes a method to prepare quinolinone compounds such as Structure 5, nitro-quinolinone compounds such as Structure 6, and amino-2-quinolinone compounds such as Structure 3 through modified Knorr reactions. Thermal condensation of a 4-aminoacetanilide (Structure 1) with a 3-ketoester, for example, ethyl 4,4,4-trifluoroacetoacetate in nitrobenzene affords a bis-amide such as Structure 2. When a bis-amide compound of Structure 2 is treated with concentrated sulfuric acid at 60-100° C., aminoquinolinone compounds of Structure 3 are produced. An alternate process of preparing 6-aminoquinolinone compounds such as Structure 3 starts with a similar Knorr reaction. The synthesis begins with reaction of an aniline such as Structure 4 and a 3-ketoester in refluxing toluene followed by treatment of a Lewis acid such as p-toluenesulfonic acid to produce a 2-quinolinone such as Structure 5. Classic nitration of the 2-quinolinone (e.g., Structure 5) selectively provides a 6-nitroquinolinone compound (e.g., Structure 6). Reduction of the nitroquinolinone such as Structure 6 under standard reduction conditions (e.g., metal catalyzed hydrogenation or tin chloride reduction) affords aminoquinolinone compounds such as Structure 3.

reactant | 6-aminoquinolinone | NC=1C=C2C=CC(NC2=CC1)=O | C9H8N2O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-quinolinone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
